US07166617B2
a) 1-(2-Chloroethyloxy)-4-fluorobenzene
4-Fluorophenol (8.92 mmol) and 1-chloro-2-bromoethane (13.4 mmol) were dissolved in acetone (18 mL). The solution was added with potassium carbonate (12.5 mmol) and heated under reflux for 10 hours. The mixture was allowed to cool to room temperature and then filtered. The filtrate was concentrated and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (yield: 31%).

reactant | 4-Fluorophenol | 8.92 mmol | FC1=CC=C(C=C1)O | C6H5FO
reactant | 1-chloro-2-bromoethane | 13.4 mmol | ClCCBr | C2H4BrCl
reactant | potassium carbonate | 12.5 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 18 mL | CC(=O)C | C3H6O
product | 1-(2-Chloroethyloxy)-4-fluorobenzene | yield: 31% | ClCCOC1=CC=C(C=C1)F | C8H8ClFO
